US07084176B2
Preparation of 3-cyclohexylaniline (Intermediate 3)
3-(Cyclohexen-1-yl)-1-nitrobenzene(7.5 g) is dissolved in ethanol (150 ml), and thereto is added 10% palladium on carbon (750 mg), and the mixture is subjected to catalytic hydrogenation at 25° C. The catalyst is removed by filtration, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (5.1 g).

reactant | 3-(Cyclohexen-1-yl)-1-nitrobenzene | 7.5 g | C1(=CCCCC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H13NO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 750 mg | [Pd] | Pd
product | 3-cyclohexylaniline | 5.1 g | C1(CCCCC1)C=1C=C(N)C=CC1 | C12H17N
